US07498337B2
tert-butyl{[5-(2,4-difluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
By a similar operation as in Reference Example 44 and using tert-butyl{[5-(2,4-difluorophenyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (113 mg), sodium hydride (60% in oil, 51 mg), 15-crown-5 (0.21 mL) and pyridine-3-ylsulfonyl chloride hydrochloride (113 mg), the title compound was obtained as a pale-yellow oil (yield 110 mg, 68%).

reactant | tert-butyl{[5-(2,4-difluorophenyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 113 mg | C(C)(C)(C)OC(N(C)CC1=CNC(=C1)C1=C(C=C(C=C1)F)F)=O | C17H20F2N2O2
reactant | sodium hydride | 51 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.21 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | pyridine-3-ylsulfonyl chloride hydrochloride | 113 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
product | tert-butyl{[5-(2,4-difluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=C(C=C(C=C1)F)F)S(=O)(=O)C=1C=NC=CC1)=O | C22H23F2N3O4S
